datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:15])[H:6])([H:4])[H:5].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14],136.273
[N:0]=[N:1][H:2].[O:3][O:4][H:5]>>[H:2][O:3][O:4][H:5].[N:0]#[N:1],-6.6944
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1](=[C:2]([C:3]=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][C:11]([H:12])([H:13])[H:14],23.7442
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11](=[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])[H:16])[H:15]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:11](=[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])[H:16])[H:15],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14])[H:4],51.4214
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23])[H:7],-12.8449
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])[H:7],38.7438
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:6],44.3086
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])=[C:9]([C:10]#[C:11][H:22])[H:21])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])[C:9]1([C:10]#[C:11][H:22])[H:21])[H:12],104.223
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:33])([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[O:36]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])[H:35])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:33][O:36],11.572944
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([O:6][H:9])([H:7])[H:8]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([O:6][H:9])([H:7])[H:8],67.893768
[C:0]([C:1]([O:2])([C:3]([C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[O:2])[H:10])([H:7])([H:8])[H:9].[C:3]([C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:11])[H:12],46.35872
[C:0]([O:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][O:9]>>[C:0]([O:1][C:2]([H:5])([H:6])[H:7])([H:3])([H:4])[O:8][O:9],0.0
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38],67.7808
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:4])[H:5],39.5806
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])[H:5],54.8522
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([C:8](=[S:9])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([S:2][H:5])[H:13])([H:3])[H:4].[C:6]([C:7]([C:8](=[S:9])[H:15])[H:14])([H:10])([H:11])[H:12],-42.6768
